US06977262B2
Methyl 4-(2-chlorophenyl)-4,7-dihydro-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2-chlorobenzaldehyde, 3-aminopyrazole and methyl 3-ketohexanoate in the same manner as in Example 25.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | methyl 3-ketohexanoate | O=C(CC(=O)OC)CCC | C7H12O3
product | Methyl 4-(2-chlorophenyl)-4,7-dihydro-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C(=O)OC)CCC)=NNC2 | C17H18ClN3O2
